US06932971B2
Synthesis of Cocaine VLP-Hapten Conjugate
A solution of norcocaine hydrochloride (1 g, 3.07 mmol), triethylamine (0.86 ml, 6.14 mmol) in methylene chloride (20 ml) is treated with succinic anhydride (614 mg, 6.14 mmol) and the mixture heated at 45.degree. C. overnight, as described in U.S. Pat. No. 5,876,727. The solvents are removed under reduced pressure and the residue purified using silica gel flash chromatography (2:1 chloroform:methanol as the eluent). This gives succinylated norcocaine (1.0 g, 84%) as a thick syrup (3.beta.-(Benzoyloxy)-8-succinoyl-8-azabicyclo[3.2.1]octane-2.beta.-carboxylic acid methyl ester). To a solution of the acid (14 mg, 0.036 mmol) in distilled water (1 ml) at 0.degree. C., EDC (10.4 mg, 0.055 mmol) was added. After 5 minutes a solution of Qβ VLP in PBS (1 ml) is added dropwise and the mixture is allowed to warm to ambient temperature overnight. The conjugate is purified by dialysis against PBS and the degree of conjugation analyzed by mass spectral analysis. The resultant conjugate is used to immunize individuals.

reactant | norcocaine hydrochloride | 3.07 mmol, 1 g | COC(=O)[C@@H]1[C@H]2CC[C@H](N2)C[C@@H]1OC(=O)C3=CC=CC=C3.Cl
reactant | triethylamine | 6.14 mmol, 0.86 ml | C(C)N(CC)CC | C6H15N
reactant | succinic anhydride | 6.14 mmol, 614 mg | C1(CCC(=O)O1)=O | C4H4O3
reactant | EDC | 0.055 mmol, 10.4 mg
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | 1 ml | O | H2O
product | Cocaine | CN1[C@H]2CC[C@@H]1[C@H]([C@H](C2)OC(=O)C=3C=CC=CC3)C(=O)OC | C17H21NO4
